Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
admit to CCU s/p pericardial drain  
 
Major Surgical or Invasive Procedure:
Pericardial Drainage and drain placement ___, with drain 
removal

 
History of Present Illness:
Ms. ___ is a ___ y/o F with a a remote history of breast 
carcinoma in situ ___ yrs ago, treated with 
radiation/lumpectomy) who presented to her PCP with shortness of 
breath, found to have a pericardial effusion. She endorses a one 
month prodrome of weight gain that started after a diarrhea 
illness.  In the past couple of weeks she has notice increasing 
dyspnea on exertion and chest discomfort. She says that the 
chest discomfort is associated with palpitations.  She thought 
she was coming down with pneumonia which she has had in the past 
because she has had a dry cough, chills at night, and post-nasal 
drip. She states that she typically exercises 45 minutes daily 
on a treadmill and suddenly found her self only able to last 
___ minutes. She states that she also now struggles to climb 
one flight of stairs. She reported feeling presyncopal on 
treadmill after 15 minutes prior to admission.
.  
Patient went to see her PCP and was noted to have enlarged 
cardiac shadow on CXR, with concern of large pericardial 
effusion accounting for her symptoms. In the ER, patient's 
initial VS were 99.4 100 ___ 98%RA. Bedside ultrasound 
revealed pericardial effusion, however patient did not have 
pulsus on examination.  
.  
On transfer to floor, patient's VS were stable.  
.
She had an echo this am that showed a moderate pericardial 
effusion but no tamponade. She had a pericardial drain placed in 
cath lab and 260cc of serosanguinous fluid was removed and sent 
for analysis.
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She admits to fevers, chills one month 
ago. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is positive for chest discomfort and 
dyspnea on exertion. Denies paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, or syncope.    

 
Past Medical History:
breast cancer(CIS) ___ years ago treated with lumpectomy and 
radiation
 
Social History:
___
Family History:
Father had a MI in ___ and is alive in ___ with CAD. Mother with 
CAD in ___. Many uncles with MIs.  Otherwise, no family history 
of arrhythmia, cardiomyopathies, or sudden cardiac death; 
otherwise non-contributory. 
 
Physical Exam:
VS: T=99.3 BP=112/65 HR=95 RR=15 O2 sat=95%RA 
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 10 cm.  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4. Pulsus 8.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, ND. Mild RUQ TTP. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 11:53PM   D-DIMER-1580*
___ 08:13PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:13PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-150 BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-TR
___ 08:13PM URINE  ___ BACTERIA-RARE 
YEAST-NONE ___ 08:13PM URINE  MUCOUS-MOD
___ 08:12PM   GLUCOSE-93 UREA N-19 CREAT-0.6 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-23 ANION GAP-16
___ 08:12PM   LD(LDH)-327* CK(CPK)-86
___ 08:12PM   cTropnT-<0.01
___ 08:12PM   CK-MB-NotDone
___ 08:12PM   TSH-1.4
___ 08:12PM   RHEU FACT-11
___ 08:12PM   WBC-6.4 RBC-3.76* HGB-11.1* HCT-33.5* MCV-89 
MCH-29.5 MCHC-33.1 RDW-13.2
___ 08:12PM   NEUTS-57.1 ___ MONOS-6.2 EOS-0.8 
BASOS-0.7
___ 08:12PM   PLT COUNT-296
___ 02:40PM   GLUCOSE-88
___ 02:40PM   UREA N-20 CREAT-0.6 SODIUM-141 POTASSIUM-4.0 
CHLORIDE-105 TOTAL CO2-23 ANION GAP-17
___ 02:40PM   estGFR-Using this
___ 02:40PM   ALT(SGPT)-271* AST(SGOT)-209* ALK PHOS-189* 
TOT BILI-0.7
___ 02:40PM   TOT PROT-5.8* ALBUMIN-3.8 GLOBULIN-2.0 
CALCIUM-8.5 PHOSPHATE-2.8 MAGNESIUM-2.0
___ 02:40PM   WBC-6.2 RBC-3.62* HGB-10.8* HCT-32.7* MCV-90 
MCH-29.8 MCHC-33.1 RDW-12.8
___ 02:40PM   NEUTS-57.4 ___ MONOS-8.9 EOS-0.9 
BASOS-0.4
___ 02:40PM   PLT COUNT-313#
___ 02:40PM   SED RATE-20
.
EKG: NSR at 100bpm, NA, NI, no STTW changes  
.  
2D-ECHOCARDIOGRAM: ___ pre-pericardiocentesis
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The aortic valve leaflets 
(3) are mildly thickened. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is a moderate 
sized pericardial effusion. The effusion appears 
circumferential. There are no echocardiographic signs of 
tamponade. No right atrial or right ventricular diastolic 
collapse is seen.  

___ post pericardiocentesis: Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is a very small residual pericardial 
effusion. The effusion appears circumferential. There are no 
echocardiographic signs of tamponade. No right atrial or right 
ventricular diastolic collapse is seen. 

Compared with the findings of the prior study (images reviewed) 
of ___, the pericardial effusion is much smaller; 
no tamponade.   

 
Brief Hospital Course:
___ y/o F with a a remote history of breast carcinoma in siut who 
presented to her PCP with shortness of breath, found to have a 
pericardial effusion now s/p pericardial drain. 
.
# Pericardial Effusion: Patient found to have moderate effusion 
on CT and Echo but no evidence of tamponade. Fluid analysis 
consistent with exudate.  Given history of cancer there is 
concern that this could represent metastasis, ovarian cancer, vs 
new lymphoma given history of radiation. Also possible is a 
viral process which she is currently endorsing.  Otherwise, she 
is uptodate on age appropriate cancer screening. . No evidence 
of uremia by labs. She was monitored in CCU, pulsus in am was 
4mmHg, Ancef was given for prophylaxis with drain in place. 
Repeat echo in am, with no reaccumulation of fluid drain to be 
pulled. Fluid pathology pending. TSH, RF WNL. ___ pending at 
time of discharge.  Her drain did not drain significantly, 
follow-up echo revealed no reaccumulation, her drain was pulled 
and shw as discharged home.
.  
# PUMP: Despite a mildly elevated JVP Ms ___ never displayed 
evidence of venous congestion or tamponade physioloyg.  She has 
no history of heart failure. Aside from pericardial effusion, 
TTE without evidence of heart failure. Repeat TTE showed 
decrease in fluid amount.
.  
# Transaminitis: If viral syndrome is cause for effusion, it may 
also explain transient transaminitis.  LFTs were trending down 
on the day of discharge.  She has no risk factors of hepatitis. 
It is doubtful that this is hepatic congestion but of concern an 
underlying metastatic process should be ruled out. No elevated 
bili to suggest cholecystitis.  
.
# Small Pleural Effusions: Deferred for PCP follow up.  ___ 
stable on room air at discharge and notified of warning signs.  
As with above discussion, oncologic and rheumatologic origins 
would be unfortunate unifying diagnoses and should be followed 
up.
 
Medications on Admission:
Calcium with Vitamin D
 
Discharge Medications:
Calcium with Vitamin D
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pericardial Effusion of unknown etiology
Pleural effusion of unknown etiology
Transaminitis of unknown etiology
?viral syndrome

 
Discharge Condition:
stable

 
Discharge Instructions:
Ms ___:
You were admitted to the hospital with shortness of breath and a 
CT scan was performed which found a small amount of fluid in 
your lungs and around the heart.  While this fluid around your 
heart was not dangerous at the time, we were concerned it might 
worsen and you were taken to the catheterization lab for 
drainage.  The fluid around your heart was drained and the fluid 
sent for analysis. 
.
No changes were made to your home medications and you can feel 
free to continue your calcium with vitamin D.
.
Please schedule an appointment with Dr. ___ ___ 
to be seen this week to follow-up on your elevated liver 
enzymes, fluid in your lungs, and the fluid around her heart.
.
If you develop chest pain, shortness of breath, palpitations, 
cough, fever, chills, nausea/vomiting, diarrhea, abdominal pain, 
lightheadness or dizziness, please call your primary care doctor 
or go to your local emergency room.
 
Followup Instructions:
___